US07625914B2
(a) Preparation of N-(5-Bromothiazol-2-yl)acetamide
5.9 ml (42.3 mmol) of acetic anhydride are added to a solution of 10 g (38.5 mmol) of 2-amino-5-bromothiazole hydrobromide in 100 ml of dichloromethane and 11 ml (77 mmol) of triethylamine, cooled to 0° C. The reaction medium is stirred for 30 minutes at 0° C. and then for 18 hours at room temperature. After addition of water, the pH is adjusted to pH 8 with aqueous 1M sodium hydroxide solution and the reaction medium is extracted with dichloromethane. The dichloromethane phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is used in step b without purification.

reactant | acetic anhydride | 42.3 mmol, 5.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-5-bromothiazole hydrobromide | 38.5 mmol, 10 g | Br.NC=1SC(=CN1)Br
reactant | triethylamine | 77 mmol, 11 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(5-Bromothiazol-2-yl)acetamide | BrC1=CN=C(S1)NC(C)=O | C5H5BrN2OS
